* C:\Users\Ian Diaz\Desktop\TP01\Ex2\Spice.asc
V1 N001 0 SINE(0 1 1K) AC 1 0
R1 N002 N001 {mc(3.68k,tola)} tol=tola
C1 N002 0 {mc(560p,tola)}
.ac dec 10 10 100000k
.param tola=0.05
.step param run 1 100 1
.backanno
.end
